US05780470
1-Cyclopropylcarbonyl-4-(6-methoxy-indan-1-yl)piperazine
A mixture of (6-methoxy-indan-1-yl)piperazine (3.0 g, 15.5 mmol), cyclopropane-carbonyl chloride (1.6 g, 15.5 mmol), and excess powdered potassium carbonate was stirred for 6 hr. The insoluble material was removed and the solution concentrated in vacuo. The residue was dissolved in ether and washed with 1N HCl. The acid washes were made basic with NaOH solution and the mixture was extracted with methylene chloride. The extracts were dried and concentrated in vacuo. The residue was converted to the hydrochloride salt with ethereal HCl to give a solid (75%, mp: 187°-188° C.). Calc'd for C18H24N2 O2.HCl: C, 64.18%; H, 7.48%; N, 8.32%. Found: C, 63.96%; H, 7.18%; N, 8.18%.

reactant | (6-methoxy-indan-1-yl)piperazine | 15.5 mmol, 3.0 g | COC1=CC=C2CCC(C2=C1)N1CCNCC1 | C14H20N2O
reactant | cyclopropane-carbonyl chloride | 15.5 mmol, 1.6 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-Cyclopropylcarbonyl-4-(6-methoxy-indan-1-yl)piperazine | 75% | C1(CC1)C(=O)N1CCN(CC1)C1CCC2=CC=C(C=C12)OC | C18H24N2O2
